US09403801B2
Step 2) tert-butyl 5-((5-cyano-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate
To a solution of tert-butyl 5-((2-chloro-5-cyanopyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate (377.2 mg, 1.037 mmol) and 1-methylpyrazol-3-amine hydrochloride (277.5 mg, 2.077 mmol) in butan-1-ol (15 mL) was added DIPEA (335.5 mg, 2.596 mmol). The mixture was stirred at 150° C. overnight, then concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=50/1) to give the title product as a yellow solid (425 mg, 96.56%).

reactant | tert-butyl 5-((2-chloro-5-cyanopyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 1.037 mmol, 377.2 mg | ClC1=NC=C(C(=N1)NC1CC2C(CN(C2)C(=O)OC(C)(C)C)C1)C#N | C17H22ClN5O2
reactant | 1-methylpyrazol-3-amine hydrochloride | 2.077 mmol, 277.5 mg | Cl.CN1N=C(C=C1)N
reactant | DIPEA | 2.596 mmol, 335.5 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | butan-1-ol | 15 mL | C(CCC)O | C4H10O
product | tert-butyl 5-((5-cyano-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 425 mg, 96.56% | C(#N)C=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CC2C(CN(C2)C(=O)OC(C)(C)C)C1 | C21H28N8O2
